US04547524
10.5 g of 1-p-chlorobenzoyl-2-isopropylidene hydrazine, 5.3 g of triethylamine and 100 ml of tetrahydrofuran were placed in a 200 ml round-bottom flask, and while stirring with ice-water cooling, 3.9 of acetylchloride was dropped gradually. After dropping, the mixture was heated at reflux for one hour so as to complete the reaction. The reaction mixture was cooled to room temperature and the separated salts were filtered off, and then the filtrate was concentrated to obtain yellow brown crystals, which were then recrystallized from a mixed solvent of hexane/acetone to yield 10.4 g (82%) of yellow crystalline 1-p-chlorobenzoyl-1-acetyl-2-isopropylidene hydrazine having a melting point of 73°-74° C.

reactant | 1-p-chlorobenzoyl-2-isopropylidene hydrazine | 10.5 g | ClC1=CC=C(C(=O)NN=C(C)C)C=C1 | C10H11ClN2O
reactant | triethylamine | 5.3 g | C(C)N(CC)CC | C6H15N
reactant | acetylchloride | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-p-chlorobenzoyl-1-acetyl-2-isopropylidene hydrazine | 10.4 g, 82% | ClC1=CC=C(C(=O)N(N=C(C)C)C(C)=O)C=C1 | C12H13ClN2O2
